US08530461B2
(S)—N-(1-{4-[3-(4-Benzyloxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide
Example 8.5 is prepared analogously to 8.1. 3-(4-Benzyloxy-phenoxy)-azetidine and (S)—N-[1-(4-bromo-phenyl)-ethyl]-acetamide (I.1) are used as starting materials. Reaction conditions are stirring for 2 days at 30° C.

reactant | 3-(4-Benzyloxy-phenoxy)-azetidine | C(C1=CC=CC=C1)OC1=CC=C(OC2CNC2)C=C1 | C16H17NO2
reactant | (S)—N-[1-(4-bromo-phenyl)-ethyl]-acetamide | BrC1=CC=C(C=C1)[C@H](C)NC(C)=O | C10H12BrNO
product | (S)—N-(1-{4-[3-(4-Benzyloxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | C(C1=CC=CC=C1)OC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(C)=O)C=C1 | C26H28N2O3
